US03988458
Upon heating a solution of 9.1 g biphenyl-2-aldehyde and 13.0 g amidinoacetic acid ethyl ester in 200 ml ethanol for 2 hours, 2,6-diamino-4-(biphenyl-2-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 215° (ethanol) is obtained.

reactant | biphenyl-2-aldehyde | 9.1 g | C=1(C(=CC=CC1)C=O)C1=CC=CC=C1 | C13H10O
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(biphenyl-2-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 33% | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C1=CC=CC=C1)C(=O)OCC)N)N | C23H25N3O4
